US06506901B2
Step A: 1-[(4-Fluorophenyl)sulfonyl]piperidine
A solution of piperidine (5.64 g, 66 mmol), diisopropylethyl amine (1 3.64 mL, 78 mmol), and p-fluorobenzenesulfonyl chloride (13.64 mL, 78 mmol) in THF at 0° C. was stirred for 2 hours at ambient temperature. The solvent was removed in vacuo and the crude reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with aqueous HCl, and brine. It was dried over sodium sulfate, and filtered. Removal of the solvent gave near quantitative yield of the title compound.

reactant | piperidine | 66 mmol, 5.64 g | N1CCCCC1 | C5H11N
reactant | diisopropylethyl amine | 78 mmol, 3.64 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | p-fluorobenzenesulfonyl chloride | 78 mmol, 13.64 mL | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | THF | C1CCOC1 | C4H8O
product | 1-[(4-Fluorophenyl)sulfonyl]piperidine | quantitative yield | FC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1 | C11H14FNO2S
